* C:\Users\Martina\Desktop\InformesTC\TP5\EJ4\UNIVERSAL_ETAPA2_MODIFICADO.asc
R1 N005 VO2 50k
r2a N013 N005 33k
R3 N006 N005 3k
r30 N014 N013 3k
R5 VOUT N014 3k
r100 N014 VO2 3k3
R7 N015 VO2 3k3
r3j N015 VOUT 3k3
C1 N013 N005 1n
C§1n N006 N015 1n
V1 VCC+ 0 15
V2 0 VCC- 15
R2 N001 VO1 6800
R9 N007 N001 5600
R10 N002 N001 680
R§fj N008 N007 560
R12 VO2 N008 560
R13 N008 VO1 680
R14 N009 VO1 680
r22a N009 VO2 680
C3 N007 N001 5nf
C4 N002 N009 1n
R16 N003 VIN 20K
R17 N010 N003 16.3k
R18 N004 N003 3k
R19 N011 N010 3k
R20 VO1 N011 3k
R21 N011 VIN 3k
R22 N012 VIN 3k
r3b N012 VO1 3k
C5 N010 N003 1n
C6 N004 N012 1n
V3 VIN 0 AC 1
XU1 0 N005 VCC+ VCC- N013 TL082
XU2 0 N014 VCC+ VCC- VOUT TL082
XU6 0 N009 VCC+ VCC- N002 TL082
XU7 0 N003 VCC+ VCC- N010 TL082
XU8 0 N011 VCC+ VCC- VO1 TL082
XU3 0 N015 VCC+ VCC- N006 TL082
XU4 0 N001 VCC+ VCC- N007 TL082
XU5 0 N008 VCC+ VCC- VO2 TL082
XU9 0 N012 VCC+ VCC- N004 TL082
.include C:\Users\Martina\Documents\LTspiceXVII\TL082.301
.ac dec 10000 10k 100k
.backanno
.end
